US07691902B2
To a solution of ethyl 2-(4-bromophenyl)acetate (5.0 g, 21 mmol) in dry THF (40 mL) at −78° C. was added a 2.0M solution of lithium diisopropylamide in THF (11 mL, 22 mmol). After stirring for 30 minutes at −78° C., ethyl cyanoformate (2.0 mL, 21 mmol) was added and the mixture was allowed to warm to room temperature. After stirring for 48 h at room temperature, the mixture was quenched with water (10 mL). The reaction was partitioned between 1 N HCl (50 mL) and dichloromethane (50 mL), and the organic layer was separated. The organic layer was washed with 1 N HCl (50 mL), dried over Na2SO4 and evaporated. The crude material was purified by silica gel chromatography, eluting with 0-20% ethyl acetate in hexanes to give diethyl 2-(4-bromophenyl)malonate (2.6 g, 41%) 1H NMR (400 MHz, DMSO-d6) δ 7.60-7.58 (m, 2H), 7.36-7.34 (m, 2H), 5.03 (s, 1H), 4.21-4.09 (m, 4H), 1.20-1.16 (m, 6H).

reactant | ethyl 2-(4-bromophenyl)acetate | 21 mmol, 5.0 g | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl cyanoformate | 21 mmol, 2.0 mL | C(#N)C(=O)OCC | C4H5NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mmol, 11 mL | C1CCOC1 | C4H8O
product | diethyl 2-(4-bromophenyl)malonate | 2.6 g, 41% | BrC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C13H15BrO4
